US07060827B2
In like manner to the preparation of N4-(3-chloro-4-trifluoromethoxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidineamine, the reaction of 3-hydroxyaniline with 2-chloro-5-fluoro-N4-(5-methylpyridin-2-yl)-4-pyrimidineamine gave 5-fluoro-N2-(3-hydroxyphenyl)-N4-(5-methylpyridin-2-yl)-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 11.39 (bs, 1H), 10.59 (bs, 1H), 8.58 (s, 1H0, 8.41 (d, 1H, J=3 Hz), 8.12 (d, 1H, J=8.7 Hz), 7.82 (d, 1H, J=8.7 Hz), 7.29 (s, 1H), 7.16 (d, 1H, J=9 Hz), 7.05 (t, 1H, J=8.4 Hz), 6.38 (dd, 1H, 1.2 and 6.9 Hz); LCMS: purity: 99%; MS (m/e): 312 (MH+).

reactant | 3-hydroxyaniline | OC=1C=C(N)C=CC1 | C6H7NO
reactant | 2-chloro-5-fluoro-N4-(5-methylpyridin-2-yl)-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=NC=C(C=C1)C)F | C10H8ClFN4
product | 5-fluoro-N2-(3-hydroxyphenyl)-N4-(5-methylpyridin-2-yl)-2,4-pyrimidinediamine | FC=1C(=NC(=NC1)NC1=CC(=CC=C1)O)NC1=NC=C(C=C1)C | C16H14FN5O
